US05416238
In 100 ml of methanol was dissolved 3.73 g of N-benzyloxycarbonyl-L-leucyl-L-argininal dibutyl acetal obtained. In nitrogen atmosphere, 1 g of palladium black was added to the solution and the mixture was subjected to catalytic hydrogenation at room temperature for 2 hours. After palladium black was removed by filtration, the filtrate was concentrated under reduced pressure to give 2.75 g of L-leucyl-L-argininal dibutyl acetal.

reactant | N-benzyloxycarbonyl-L-leucyl-L-argininal dibutyl acetal | 3.73 g | C(CCC)OC([C@@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(C)C)=O)CCCNC(N)=N)OCCCC | C28H49N5O5
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium black | 1 g | [Pd] | Pd
product | L-leucyl-L-argininal dibutyl acetal | 2.75 g | C(CCC)OC([C@@H](NC([C@@H](N)CC(C)C)=O)CCCNC(N)=N)OCCCC | C20H43N5O3
